US07186729B2
2-(5-{3-[4-(4-Chloro-phenyl)-4-methoxy-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol
4-(4-Chloro-phenyl)-4-methoxy-piperidine (0.072 g, 0.319 mmol) was dissolved in isopropanol (5 mL) and 2,6-lutidine (0.034 g, 37 uL, 0.319 mmol) was added. Catalytic iodine was also added. The resulting suspension was warmed to 80° C. Solid 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.060 g, 0.160 mmol) was added in approximately equal portions over 2 h. Stirring was continued an additional 20 h at 80° C. The mixture was concentrated and the resulting residue purified by silica gel chromatography (ethyl acetate to 87/10/3 ethyl acetate/methanol/triethylamine gradient) to afford the title compound (70 mg, 42%).

reactant | 4-(4-Chloro-phenyl)-4-methoxy-piperidine | 0.319 mmol, 0.072 g | ClC1=CC=C(C=C1)C1(CCNCC1)OC | C12H16ClNO
reactant | 2,6-lutidine | 0.319 mmol, 37 uL, 0.034 g | N1=C(C=CC=C1C)C | C7H9N
reactant | iodine | II | I2
reactant | 2-[5-(3-Bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.160 mmol, 0.060 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | 2-(5-{3-[4-(4-Chloro-phenyl)-4-methoxy-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl)-propan-2-ol | 70 mg, 42% | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O)OC | C31H35ClN2O3
